US09029409B2
Tert-butyl-4-(3-(6-(4-fluoro-3-methoxybenzylcarbamoyl)-2-methylpyrimidin-4-yl)-4,5-dihydroisoxazol-5-yl)piperidine-1-carboxylate (0.3 g, 0.569 mmol, G.1.18) was dissolved in 4N 1,4-dioxane.HCl (5 mL) and stirred at RT for about 1 h. Excess solvent was removed in vacuo and the crude material was triturated with ether (2×10 mL) to afford N-(4-fluoro-3-methoxybenzyl)-2-methyl-6-(5-(piperidin-4-yl)-4,5-dihydroisoxazol-3-yl)pyrimidine-4-carboxamide hydrochloride as a white solid 0.2 g (82%). LC/MS (Table 1, method e) Rt=2.53 min; MS m/z 428.3 (M+H)+.

reactant | Tert-butyl-4-(3-(6-(4-fluoro-3-methoxybenzylcarbamoyl)-2-methylpyrimidin-4-yl)-4,5-dihydroisoxazol-5-yl)piperidine-1-carboxylate | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC(=NO1)C1=NC(=NC(=C1)C(NCC1=CC(=C(C=C1)F)OC)=O)C | C27H34FN5O5
reactant | HCl | 5 mL | Cl | ClH
solvent | 1,4-dioxane | 4N | O1CCOCC1 | C4H8O2
product | N-(4-fluoro-3-methoxybenzyl)-2-methyl-6-(5-(piperidin-4-yl)-4,5-dihydroisoxazol-3-yl)pyrimidine-4-carboxamide hydrochloride | 0.2 g, 82% | Cl.FC1=C(C=C(CNC(=O)C2=NC(=NC(=C2)C2=NOC(C2)C2CCNCC2)C)C=C1)OC | InChI=1S/C22H26FN5O3.ClH/c1-13-26-17(18-11-20(31-28-18)15-5-7-24-8-6-15)10-19(27-13)22(29)25-12-14-3-4-16(23)21(9-14)30-2;/h3-4,9-10,15,20,24H,5-8,11-12H2,1-2H3,(H,25,29);1H
